US05219871
Preparation of 2,2-diphenyl-4-(N-benzyl-N-methylamino)butanamide
A solution of 3-(N-benzyl-N-methylamino)-1-cyano-1,1-diphenylpropane (11.1 g-see Preparation 5) in 90% sulphuric acid (66 ml) was heated at 100° for 1 hour. The mixture was allowed to cool to room temperature and poured into ice/water (300 ml). The aqueous mixture was basified with saturated aqueous sodium carbonate and extracted with dichloromethane (3×100 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give the title compound, yield 10.6 g. A sample recrystallised from ethanol had a melting point of 145°-148°.

reactant | 3-(N-benzyl-N-methylamino)-1-cyano-1,1-diphenylpropane | 11.1 g | C(C1=CC=CC=C1)N(C)CCC(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | C24H24N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulphuric acid | 66 ml | S(O)(O)(=O)=O | H2O4S
product | 2,2-diphenyl-4-(N-benzyl-N-methylamino)butanamide | C1(=CC=CC=C1)C(C(=O)N)(CCN(C)CC1=CC=CC=C1)C1=CC=CC=C1 | C24H26N2O
